US08383786B2
Preparation of 1-[2-((2R,3R,4R,5S,6S)-3,4,5-trimethoxy-6-methyl-tetrahydropyran-2-yloxy)-indan-5-yl]-ethanone (Compound E-26)
To a solution at 0-5° C. of 1-(2-hydroxy-indan-5-yl)-ethanone (Compound E-25; 440 mg, 2.50 mmol) and 92% w/w of tert-butyl-dimethyl-(3,4,5-trimethoxy-6-methyl-tetrahydro-pyran-2-yloxy)-silane (Compound E-23; 1.00 g, 2.87 mmol) in CH2Cl2 (6 mL) was added via syringe trimethylsilyl triflate (0.12 mL, 146 mg, 0.66 mmol). The contents were allowed to gradually warm to room temperature and were stirred overnight. The solution was diluted with CH2Cl2 and was washed once with saturated sodium bicarbonate (NaHCO3). The aqueous phase was extracted once with CH2Cl2, and the combined organics were dried (MgSO4). Concentration gave a pale green oil (783 mg, 86%): 1H NMR (CDCl3) δ 7.79 (m, 2H), 7.29 (d, J=7.6 Hz, 1H), 4.97 (s, 1H), 4.64 (m, 1H), 3.67-3.40 (m, 3H), 3.55 (s, 3H), 3.50 (s, 3H), 3.45 (s, 3H), 3.21-2.97 (m, 5H), 2.59 (s, 3H), 1.30 (d, J=6.3 Hz, H); IR (neat) 1683 cm−1.

reactant | 1-(2-hydroxy-indan-5-yl)-ethanone | 2.50 mmol, 440 mg | OC1CC2=CC=C(C=C2C1)C(C)=O | C11H12O2
reactant | tert-butyl-dimethyl-(3,4,5-trimethoxy-6-methyl-tetrahydro-pyran-2-yloxy)-silane | 2.87 mmol, 1.00 g | C(C)(C)(C)[Si](OC1OC(C(C(C1OC)OC)OC)C)(C)C | C15H32O5Si
reactant | trimethylsilyl triflate | 0.66 mmol, 0.12 mL, 146 mg | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 1-[2-((2R,3R,4R,5S,6S)-3,4,5-trimethoxy-6-methyl-tetrahydropyran-2-yloxy)-indan-5-yl]-ethanone | 783 mg, 86% | CO[C@H]1[C@@H](O[C@H]([C@@H]([C@H]1OC)OC)C)OC1CC2=CC=C(C=C2C1)C(C)=O | C20H28O6
